US07683076B2
N-(3-Hydroxy-2-oxo-1,2,3,4-tetrahydroquinolin-5-yl)-N′-[4-(trifluoromethyl)benzyl]urea
5-Amino-3-hydroxy-3,4-dihydroquinolin-2(1H)-one (300 mg, 1.68 mmol) is dissolved in ethyl acetate and cooled to 0° C. 4-Trifluoromethylbenzylisocyanate (339 mg, 1.68 mmol) is added slowly with stirring. The reaction mixture is stirred for 1 h at room temperature. The insoluble product is filtered and dried in vacuo. Yield: 103 mg (16%).

reactant | 5-Amino-3-hydroxy-3,4-dihydroquinolin-2(1H)-one | 1.68 mmol, 300 mg | NC1=C2CC(C(NC2=CC=C1)=O)O | C9H10N2O2
reactant | 4-Trifluoromethylbenzylisocyanate | 1.68 mmol, 339 mg | FC(C1=CC=C(CN=C=O)C=C1)(F)F | C9H6F3NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-(3-Hydroxy-2-oxo-1,2,3,4-tetrahydroquinolin-5-yl)-N′-[4-(trifluoromethyl)benzyl]urea | OC1C(NC2=CC=CC(=C2C1)NC(=O)NCC1=CC=C(C=C1)C(F)(F)F)=O | C18H16F3N3O3
